US05298390
Preparation of 1-Hydroxymethylbenzotriazole:
A mixture of benzotriazole (60 g, 0.5 mole), formalin (40 ml, 40% by volume), acetic acid (50 ml) and water (100 ml) (gave a white color precipitate after few minutes) was allowed to stand for over two hours at room temperature. The product which had precipitated was filtered off, and dried and recrystallized from 1200 ml of hot (80°-85° C.) not boiling water to give 68 g of (90% yield) the desired product; mp 148° C. (lit. 148°-151° C.).

reactant | benzotriazole | 0.5 mole, 60 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | formalin | 40 ml | C=O | CH2O
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 1-Hydroxymethylbenzotriazole | 90% yield | OCN1N=NC2=C1C=CC=C2 | C7H7N3O
